Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
shock
 
Major Surgical or Invasive Procedure:
___ ERCP with deployment of ___ 7cm straight plastic biliary 
stent
 
History of Present Illness:
Mr. ___ is a ___ with PMHx of Afib (on Warfarin), HFpEF, 
HTN, DMII, CKD (baseline Cr 3.0) who presents as transfer from 
hospital in  ___ s/p MVA, cleared from trauma 
standpoint, found to have 
significant hyperkalemia, ___ on CKD, developed shock requiring 
pressors with initial concern for sepsis/cholangitis however 
significant LFT derangements found to be subacute, subsequently 
undergoing
hepatology workup and management of undifferentiated shock. 

Patient presented to emergency department as a transfer from 
outside hospital after MVA. He arrived altered and unable to 
provide entire history. Per report, the patient was in CT going 
to the ___ center and ended up in ___ where he sustained an MVC. 
He was a restrained driver going about 50 miles an hour. Airbags 
did
deploy. Patient endorsed LOC. He cannot recall how he arrived at 
___ but this is where he was 
found status post MVC. Trauma workup was done which was notable
for CT head, C-spine and CT abdomen pelvis as well as a CT 
chest. All imaging was done without contrast as the patient was 
found to have an ___. CT abdomen pelvis was notable for 
distended
gallbladder with possible gallbladder sludge. CT chest did not 
show any acute intrathoracic process but did show enlarged heart 
with probable small pericardial effusion versus pericardial
thickening. CT head and C-spine were negative. Labs however were 
notable for creatinine of 4.93 ___s albumin of 2.8, total 
bilirubin of 9.1 and elevated lipase of 1185. AST and ALT are
also elevated at 190 and 294. Alk phos was 622. Patient was 
transferred to ___ for further care and possible ERCP. 
White count was normal 7.3. INR was also elevated 2.47.

In the ED,  
Initial Vitals:  
- T: 96.6, HR: 65, BP: 98/56, RR: 19 SpO2: 100%ra 

Exam: 
- waxing/waning attention, lungs clear, no significant 
peripheral
edema

Labs:  
-Notable for Hgb 7.3. Cr: 4.8. Tb: 8.8. Lipase: 284. Trop: 0.10.
CKMB: 17. INR: 2.8. 

Imaging:
- RUQUS: 
1. Distended gall bladder and gallbladder-wall edema with 
intrahepatic and extrahepatic biliary ductal dilatation and 
pancreatic ductal dilatation without evidence of gallstones. 
Findings are suspicious for distal duct stone/obstruction. ERCP 
could be considered for further evaluation.
2. Right suprarenal echogenic mass better assessed on prior CT
and is most suggestive of adrenal myelolipoma.
3. Splenomegaly measuring 15.5 cm.  
- OSH NCHCT:
1. Unremarkable
- OSH CT C-Spine:
1. Unremarkable
- OSH CT Chest:
1. enlarged heart, probable small pericardial effusion vs.
pericardial thickening. 
- OSH CT A/P:
1. Distended GB with possible GB sludge

Consults:  
- Renal
- Trauma Surgery
- ERCP

Interventions:
- Insulin/Dextrose
- Calcium Gluconate 2g
- Sodium Bicarb 50 mEq
- Albuterol Neb x 1
- LR 500cc
- KCentra ___ units
- Started on levophed 0.05 -> 0.15
- Placing femoral CVL

  
VS Prior to Transfer: HR:75, BP: ___ on .15 of levo, RR: 20,
SpO2: 99%ra 

On arrival to the FICU, patient endorses the HPI as listed 
above. He endorses last two weeks has been having orthostatic 
sx. No current dizziness/lightheadedness. Denies any cp, SOB. 
Endorses
epigastric abdominal pain. Denies any N/V/D/C. Says he has not 
taking the gliptin since his recent hospitalization when DILI 
was suspected. Also endorses some back and groin pain. 

ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
Atrial fibrillation
Heart failure
DMII
PTSD
CKD
?Sickle Cell Anemia (listed as a disability on his ___ discharge
summary)
 
Social History:
___
Family History:
patient not aware.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VS: T: 97.5, HR: 84, BP: 114/79 w 0.15 levo, RR: 18, SpO2: 
100%ra
GEN: alert, interactive, NAD
HEENT: PERRL, EOMI, scleral icterus, OP clear, MMM
NECK: unable to assess JVD d/t habitus
CV: RRR, no m/r/g
RESP: decreased air movement b/l, no w/r/r
GI: soft, distended, ttp in epigastric region, no guarding, 
small
echhymoses noted on R flank/lower abdomen. 
MSK: Clubbing noted. No cyanosis or edema. Scattered ecchymoses
on b/l ___. 
SKIN: mild jaundice  
NEURO: AOx3, CN II-XII intact. 

DISCHARGE PHYSICAL EXAM:
========================

___ 1114 Temp: 97.9 PO BP: 150/84 HR: 56 RR: 18 O2 sat: 
100% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: mildly icteric sclera, pupils equally round and reactive
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesions, erythema or exudate
CV: NS1/S2, irregularly irregular
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, mildly distended abdomen, NABS, nontender
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout, mild asterixis, CN II-XII grossly intact,
AXOX3
___: trace pitting edema bilaterally, +2 DP pulses
PSYCH: blunted affect
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:00AM BLOOD WBC-7.5 RBC-2.44* Hgb-7.3* Hct-24.2* 
MCV-99* MCH-29.9 MCHC-30.2* RDW-21.2* RDWSD-76.5* Plt Ct-81*
___ 07:00AM BLOOD Neuts-86.5* Lymphs-4.1* Monos-7.6 
Eos-0.4* Baso-0.1 Im ___ AbsNeut-6.52* AbsLymp-0.31* 
AbsMono-0.57 AbsEos-0.03* AbsBaso-0.01
___ 04:18PM BLOOD Anisocy-1+* Poiklo-1+* Macrocy-1+* 
Polychr-1+* Target-1+* RBC Mor-SLIDE REVI
___ 07:00AM BLOOD ___ PTT-38.2* ___
___ 04:18PM BLOOD ___
___ 04:18PM BLOOD Ret Aut-4.6* Abs Ret-0.11*
___ 07:00AM BLOOD Glucose-203* UreaN-179* Creat-4.8* Na-139 
K-6.1* Cl-116* HCO3-7* AnGap-16
___ 07:00AM BLOOD ALT-228* AST-172* CK(CPK)-280 
AlkPhos-574* TotBili-8.8* DirBili-7.3* IndBili-1.5
___ 07:00AM BLOOD Lipase-284*
___ 07:00AM BLOOD CK-MB-17* MB Indx-6.1* cTropnT-0.10*
___ 07:00AM BLOOD Albumin-2.9* Calcium-8.4 Phos-6.8* Mg-2.0
___ 10:00AM BLOOD VitB12-972* Folate-15
___ 04:18PM BLOOD calTIBC-208* ___ Ferritn-911* 
TRF-160*
___ 12:39AM BLOOD Triglyc-168*
___ 10:00AM BLOOD Osmolal-374*
___ 04:18PM BLOOD TSH-1.5
___ 04:18PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-POS* HAV Ab-NEG
___ 04:18PM BLOOD AMA-NEGATIVE Smooth-NEGATIVE 
ANCA-NEGATIVE B
___ 04:18PM BLOOD ___
___ 12:39AM BLOOD PEP-PND Fr K/L-PND IgG-640* IgA-213 
IgM-18*
___ 11:39AM BLOOD Vanco-<4.0*
___ 07:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:18PM BLOOD EtGlycl-LESS THAN 
___ 04:18PM BLOOD HCV Ab-NEG
___ 10:10AM BLOOD ___ pO2-27* pCO2-30* pH-7.10* 
calTCO2-10* Base XS--27 Intubat-NOT INTUBA
___ 07:17AM BLOOD Creat-5.3* K-5.8*

MICRO:
======
___ urine culture - negative
___ blood cultures - negative

IMAGING/STUDIES:
================
___ RUQ US
1. Mildly distended and thickened gallbladder wall with luminal 
sludge.  
Intrahepatic and extrahepatic biliary ductal dilation.  Findings 
___ reflect cholangitis secondary to a passing stone.  Consider 
MRCP to better assess. 
2. Right suprarenal echogenic mass better assessed on prior CT 
and is most 
suggestive of adrenal myelolipoma. 
3. Splenomegaly measuring 15.5 cm. 

___ TTE
The left atrial volume index is SEVERELY increased. The right 
atrium is markedly enlarged. There is no
evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative biplane left ventricular 
ejection fraction is 68 %. Left ventricular cardiac index is 
normal (>2.5 L/min/m2). There is no resting left ventricular 
outflow tract gradient. Normal right ventricular cavity size 
with normal free wall motion. Intrinsic right ventricular 
systolic function is likely lower due to the severity of 
tricuspid regurgitation. The aortic sinus diameter is normal for 
gender with normal ascending aorta diameter for gender. The 
aortic valve leaflets (3) appear structurally normal. There is 
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets are moderately thickened with no mitral 
valve prolapse. There is moderate mitral annular calcification. 
There is trivial mitral regurgitation. Due to acoustic 
shadowing, the severity of mitral regurgitation could be 
UNDERestimated. The pulmonic valve leaflets are not well seen. 
The tricuspid valve leaflets are mildly thickened. There is 
moderate [2+] tricuspid regurgitation. There is moderate 
pulmonary artery systolic hypertension. There is a trivial 
pericardial effusion.
IMPRESSION: Markedly dilated atria. Mild symmetric left 
ventricular hypertrophy with normal
cavity size and regional/global biventricular systolic function. 
Moderate tricuspid regurgitation and
pulmonary hypertension.

___ ERCP
2 cm long stricture in distal CBD

MRI abdomen/pelvis: ___

1. Study is limited by motion.
2. Atrophic pancreas with dilated irregular duct upstream from 
the pancreatic
head where there is an abrupt duct cutoff along with uncinate 
process side
branch dilation due to an at least 3 cm pancreatic head mass 
that is not
well-defined on this motion limited non-contrast study.  
Findings are most
likely from pancreatic adenocarcinoma.
3. Mildly nodular liver contour concerning for cirrhosis.  
Evaluation of liver
lesions is limited on this non-contrast study. Mild splenomegaly 
and small
volume ascites.
4. Trace right and small left pleural effusion.

Elbow X-ray ___:

FINDINGS: 
 
No fracture, dislocation, or degenerative change is detected. No 
suspicious
lytic lesion is identified.  No joint effusion is seen.  There 
is a cluster of
small metallic fragments in the medial soft tissues, which would 
be in keeping
with shrapnel.  Heavy atherosclerotic calcifications are noted.
 
IMPRESSION: 
 
Small cluster of millimetric metallic fragments in the medial 
soft tissues, in
keeping with shrapnel.
 

CT chest w/o contrast ___
IMPRESSION:
  
1. Scattered bilateral pulmonary nodules measure up to 3 mm and 
are without
suspicious characteristics.
2. New small left and trace right pleural effusions.
3. 8 mm lucency in the T5 vertebra is nonspecific.  Attention on 
___ is
recommended.
4. Small pericardial effusion, unchanged compared to ___.
5. 5.2 cm probable right adrenal angiomyolipoma.
6. Small volume ascites.

___ILE DUCT, BRUSHINGS:
POSITIVE FOR MALIGNANT CELLS.
Consistent with well-differentiated adenocarcinoma, see note.
 
DISCHARGE LABS:
===============
___ 06:39AM BLOOD WBC-8.5 RBC-2.51* Hgb-7.7* Hct-25.6* 
MCV-102* MCH-30.7 MCHC-30.1* RDW-19.9* RDWSD-71.1* Plt ___
___ 06:50AM BLOOD WBC-8.7 RBC-2.50* Hgb-7.6* Hct-25.2* 
MCV-101* MCH-30.4 MCHC-30.2* RDW-20.3* RDWSD-73.8* Plt ___
___ 06:39AM BLOOD Plt ___
___ 06:39AM BLOOD ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD ___

___ 06:50AM BLOOD Glucose-169* UreaN-96* Creat-2.8*# Na-141 
K-4.6 Cl-109* HCO3-18* AnGap-14
___ 07:03AM BLOOD Glucose-194* UreaN-111* Creat-2.4* Na-141 
K-4.5 Cl-108 HCO3-16* AnGap-17
___ 06:39AM BLOOD ALT-145* AST-59* AlkPhos-777* 
TotBili-4.5*
___ 07:00AM BLOOD Lipase-284*
___ 06:39AM BLOOD Calcium-8.5 Phos-5.0* Mg-1.8
___ 04:18PM BLOOD calTIBC-208* ___ Ferritn-911* 
TRF-160*
___ 06:50AM BLOOD Triglyc-100 HDL-24* CHOL/HD-12.1 
LDLcalc-246*
 
Brief Hospital Course:
Mr. ___ is a ___ with PMHx of Afib (on Warfarin), HFpEF, 
HTN, DMII, CKD (baseline Cr 3.0) who presents as transfer from 
OSH in ___ s/p MVA, cleared from trauma standpoint, 
found to have significant hyperkalemia, ___ on CKD, developed 
shock likely from sepsis/cholangitis ___ obstruction. Patient 
underwent ERCP and found to have biliary stricture concerning 
for malignancy. Initially in ICU on pressors, stabilized and 
called out to floors on ___. ERCP with CBD brushings positive 
for adenocarcinoma with pancreatic mass noted on MRI.
 

#Septic Shock
___ Cholangitis. 
#Likely Septic v. Hypovolemic - Patient arrived with hypotension 
of unclear etiology. Likely septic shock ___ cholangitis given 
AMS, LFT derangements, biliary ductal dilation and distended GB 
on imaging. He was started on bicarb gtt given acidosis, 
vanc/cefepime/flagyl, and levophed. He underwent ERCP which 
revealed biliary stricture. Plastic stent placed. He was weaned 
off pressors on ___ and called out to floors on ___. Cefepime 
and flagyl were started on ___ and will continue two week 
course of antibiotics for concern for cholangitis. Discharge on 
oral ciprofloxacin and oral flagyl to complete two week course 
end ___. 

#Transaminitis
#Biliary obstruction
#Pancreatic adenocarcinoma
Outside CT imaging showed dilated GB on CT. RUQUS on 
presentation shows distended GB, and GB wall edema, with 
intra/extrahepatic biliary ductal dilatation and pancreatic 
ductal dilatation without evidence of gallstones. Hepatology was 
consulted. He underwent ERCP on ___ with plastic stent 
placement and CBD brushings were taken, no sphincterotomy.  He 
had distal CBD stricture and pathology from brushings revealed 
adenocarcinoma. Of note, LFTs were previously abnormal ~ 1 month 
ago, at which time was thought to be drug-induced related to 
alogliptin/atorvastatin/hydralazine, though this seems less 
likely since he's no longer on these meds. HBV viral load was 
undetectable.  Positive HbcAb but without positive HBsAg or 
HBsAb.  Negative HAV antibody.  He denies any recent ETOH use.  
Negative ___, AMA, anti-smooth muscle antibody, 
anti-mitochondrial antibody.
-On discharge his LFTs were trending down, will need to be 
followed. Patient with likely underlying cirrhosis based on 
imaging findings (reports history of alcohol use ___ years 
prior). Small amount of ascites noted on imaging studies, will 
need ___ with hematology as outpatient. 

#Pericardial Effusion
Found on OSH CT Chest, noted to be small pericardial effusion 
vs. pericardial thickening. Likely ___ to profound uremia. TTE 
showed trivial pericardial effusion. ___ with ECHO as 
outpatient. 

___ on CKD
#Hyperkalemia
#Hyperphosphatemia
#AGMA- Per outside records, baseline Cr of 3.0. Potassium 
normalized with isotonic bicarb and kayexalate. He was started 
on sodium bicarb gtt for his acidosis, and received volume 
repletion with fluid boluses. Home calcitriol was continued. His 
Cr was slow to improve. Renal was consulted for consideration of 
initiation of HD. He was not found to be candidate for HD given 
likely malignancy. 
-On discharge, he will continue with sodium bicarbonate 1300 mg 
BID until seen by nephrology as outpatient. He has a 
nephrologist in ___ at ___.

#Acute on Chronic Hypoproliferative Anemia - Baseline of 10 
based on outside records. Admitted with Hgb 7.3. s/p MVA, c/f 
bleed. Appears to have significant CKD, likely component of 
anemia of chronic disease. Reticulocyte Index of 1.2. No 
evidence of hemolysis. B12, Folate wnl. 
-SPEP with no specific abnormalities noted. UPEP with multiple 
protein bands seen with albumin predominating, no monoclonal 
immunoglobulin seen, negative for ___ protein. 

#Atrial fibrillation:
-Continued on Coumadin, INR elevated on ___ to 3.3, patient 
discharged with plan to have INR checked by ___ or PCP, he has 
established care with ___ clinic at ___. 

#s/p MVA
Outside imaging with no reported fractures or acute bleed. ACS 
was consulted. x-rays of right femur, knee, and tib/fib were 
obtained given pain complaints and TTP on exam and showed no 
acute fracture.

#COPD
#OSA
On further history, patient endorsed both COPD and OSA. States 
he does not take any inhalers for his COPD. Does endorse CPAP 
use at night, however he refused using CPAP machine while in 
hospital, he said he will restart at home. Given initial AMS, 
important to minimize possibility of CO2 narcosis. Continued 
CPAP QHS and Duonebs PRN, with transitional issue of further w/u 
and consideration of discharging with maintenance inhalers

#Malignancy:
-Likely pancreatic adenocarcinoma given CBD brushings positive 
for adenocarcinoma and pancreatic mass noted on MRI. 
-Patient would like to have care closer to home where his 
daughter and sister live. Discussed with his PCP at ___ 
___, he can place consults for oncology at ___ for 
cancer care. The ___ will arrange for rides to pick him up for 
his appointments. 
-Discussed with ERCP team, patient will need to have plastic 
stent changed to metal stent in 3 weeks. Patient does not want 
to come back to ___ and thus would like to have ERCP done in 
___.
-Oncology at ___ suggested imaging studies of MRI 
abdomen/pelvis and CT chest w/o contrast and ___ with 
outside oncology group in ___ for further management. 

#Type II Diabetes:
-Patient has been on Glipizide in past and trialed on gliptan, 
given current creatinine and LFT abnormalities, discussed with 
___ to see patient while hospitalized for diabetic teaching 
and will likely need to continue insulin for now. He was not 
seen by ___ prior to discharge, and was discharged on lantus 
20 units.  PCP aware of discharge.

#Possible encephalopathy
-Patient is AXOX3 on discharge. Unclear if he had issues with 
his memory in the past, he states he was lost driving to ___ 
___ and then ended up in ___ where he hit a light 
pole in front of a house. He recalls driving and getting lost 
along the way. Spoke to his PCP and ___ discuss further with 
him in regards to further evaluation. Currently, patient was 
advised to not drive.

#CV:
#Afib
#CHF
#HTN
#Hyperlipidemia:
-continue Coumadin for atrial fibrillation
-restarted Amlodipine 5 mg on discharge, monitor BP as 
outpatient
-Holding Hydralazine, Lasix, Spironolactone, reevaluate with PCP 

-___, reevaluate with PCP after repeat LFTs 
-Noted to have significant ectopy on telemetry.  PCP aware and 
___ need cardiology referral.

Discharge ___ with PCP on ___ to establish plan for care in 
___ including oncology care, pathology slides from 
ERCP/CBD brushings will be sent to PCP to give to oncology team
-Patient will need ERCP stent replaced to metal stent with 
repeat ERCP in 3 weeks. Patient refuses to come to ___ for 
___ need ERCP in ___
-___ ECHO as outpatient
-___ with renal/PCP for repeat chemistries, continue 1300 
mg sodium bicarbonate twice daily until reevaluated with 
chemistries in ___. 
-If patient has hepatologist that he is working with in ___, he 
can continue ___ with hepatology at ___ or continue 
monitoring with PCP or oncologist for liver ___.
-Reestablish care with ___ clinic, continue 
Coumadin for atrial fibrillation, repeat INR testing by ___ or 
___ clinic
-___ with repeat CBC, chemistries, LFTs in one week 
-Restart of above outpatient medications as deemed necessary by 
PCP 

> 30 min spent on dc planning, documentation and communication
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 2.5 mg PO DAILY16 
2. Terazosin 10 mg PO BID 
3. amLODIPine 10 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. HydrALAZINE 10 mg PO TID 
6. Furosemide 80 mg PO BID:PRN edema 
7. Spironolactone 25 mg PO DAILY 
8. Losartan Potassium 100 mg PO DAILY 
9. Ranitidine 150 mg PO BID 
10. GlipiZIDE 5 mg PO BID 
11. Ferrous Sulfate 325 mg PO BID 
12. Calcitriol 0.25 mcg PO 5X/WEEK (___) 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Adenocarcinoma likely pancreatic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were in a car accident. Your bloodwork and imaging were 
concerning for a dangerous infection of your biliary system that 
was causing septic shock. You were monitored in the ICU and 
required special medications to support your blood pressure 
(pressors), but this needed to be resolved and you were 
transferred to the medicine floor for ongoing care.

You had an ERCP procedure to look at your biliary system and you 
were found to have cytology results that were positive for 
adenocarcinoma from your common bile duct. You were also found 
to have a pancreatic mass on your MRI imaging. You have a 
preliminary cancer diagnosis. 

What should I do after I leave the hospital?
- Take your medicines as prescribed
- Attend your follow up appointments as scheduled with your PCP 
in ___, ___ on ___. He will arrange for your ___ 
with ___ oncology and ___ with your other 
physicians including your kidney doctor. Your pathology slides 
will be sent directly to your PCP who will then give them to 
your new oncologist in ___. 
- Please do not drive until you discuss your evaluation with 
your primary care physician. 

We wish you the best in your recovery.
- Your ___ Care Team
 
Followup Instructions:
___